US04983596
To a solution of allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (3.80 g) in ethyl acetate (20 ml) was added rhodium(II) octanoate (20 mg) under reflux in a stream of nitrogen. After 20 minutes, rhodium(II) octanoate (20 mg) was added to the mixture at the same condition. The mixture was refluxed for 40 minutes and concentrated under reduced pressure to give a syrup. The syrup was dissolved in acetonitrile (20 ml) and cooled at 0°-5° C. under atmosphere of nitrogen. To the solution was added diphenyl chlorophosphate (2.94 ml) and N,N-diisopropyl-N-ethylamine (2.69 ml) successively and the mixture was stirred at the same condition for 18 hours. To this mixture were added a solution of (2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-mercaptopyrrolidine (3.65 g) in acetonitrile (4 ml) and N,N-diisopropyl-N-ethylamine (2.69 ml) successively at 0°~5° C. The mixture was stirred at 0°-5° C. for one hour and at ambient temperature for 3 hours, and then poured into a mixture of ethyl acetate (100 ml) and water (60 ml). The organic layer was washed with water (60 ml) and brine (60 ml) in turn, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (60 g) and eluted with a mixture of hexane and ethyl acetate (4:1 V/V) to give allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (2.58 g).

reactant | allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 3.80 g | [N+](=[N-])=C(C(=O)OCC=C)C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O)=O)=O | C13H17N3O5
reactant | diphenyl chlorophosphate | 2.94 ml | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | (2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-mercaptopyrrolidine | 3.65 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)COCCF | C11H18FNO3S
reactant | water | 60 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | N,N-diisopropyl-N-ethylamine | 2.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | rhodium(II) octanoate | 20 mg | C(CCCCCCC)(=O)[O-].[Rh+2].C(CCCCCCC)(=O)[O-]
catalyst | rhodium(II) octanoate | 20 mg | C(CCCCCCC)(=O)[O-].[Rh+2].C(CCCCCCC)(=O)[O-]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-diisopropyl-N-ethylamine | 2.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 2.58 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)COCCF | C24H33FN2O7S
